US07723349B2
A mixture of tert-butyl 4-(3-isopropyl-4-{[(trifluoromethyl)sulfonyl]oxy}-phenyl)-3,6-dihydropyridine-1(2H)-carboxylate (0.14 g), zinc cyanide (65 mg), and tetrakis(triphenylphosphine)palladium(0) (25.0 mg) in DMF (3.0 mL) was stirred at 100° C. under nitrogen for 4 h. The reaction was cooled down, diluted with water, extracted with diethyl ether. The combined extract was washed with water, brine, dried and concentrated. tert-Butyl 4-(4-cyano-3-isopropylphenyl)-3,6-dihydropyridine-1(2H)-carboxylate (85 mg) was isolated by Combiflash. The isolated product was dissolved in a minimum amount of ethyl acetate and 4 N HCl in dioxane (3.0 mL) was added and stirred for 1 h. Diethyl ether (10 mL) was added and the solid was filtered and washed with ether to give the product 2-isopropyl-4-(1,2,3,6-tetrahydropyridin-4-yl)benzonitrile hydrochloride (65 mg).

reactant | tert-butyl 4-(3-isopropyl-4-{[(trifluoromethyl)sulfonyl]oxy}-phenyl)-3,6-dihydropyridine-1(2H)-carboxylate | 0.14 g | C(C)(C)C=1C=C(C=CC1OS(=O)(=O)C(F)(F)F)C=1CCN(CC1)C(=O)OC(C)(C)C | C20H26F3NO5S
reactant | DMF | 3.0 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
catalyst | zinc cyanide | 65 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 25.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | tert-Butyl 4-(4-cyano-3-isopropylphenyl)-3,6-dihydropyridine-1(2H)-carboxylate | 85 mg | C(#N)C1=C(C=C(C=C1)C=1CCN(CC1)C(=O)OC(C)(C)C)C(C)C | C20H26N2O2
